US08703758B2
A) 4-(2-cyclopropylethoxy)-1-methyl-2-nitrobenzene
A suspension of 4-methyl-3-nitrophenol (3 g), 2-cyclopropylethyl methanesulfonate (3.22 g) and potassium carbonate (2.71 g) in DMF (100 mL) was stirred at 80° C. for 6 hr. The reaction mixture was allowed to cool to room temperature, and the solvent was evaporated under reduced pressure. The obtained residue was extracted with ethyl acetate and water, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (NH, hexane/ethyl acetate) to give the title compound (3.65 g).

reactant | 4-methyl-3-nitrophenol | 3 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | 2-cyclopropylethyl methanesulfonate | 3.22 g | CS(=O)(=O)OCCC1CC1 | C6H12O3S
reactant | potassium carbonate | 2.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(2-cyclopropylethoxy)-1-methyl-2-nitrobenzene | 3.65 g | C1(CC1)CCOC1=CC(=C(C=C1)C)[N+](=O)[O-] | C12H15NO3
